US09108939B2
C: 1-(Cyclopropylmethyl)-3-(4-(piperidin-4-yloxy)phenyl)urea
To a stirring solution of tert-butyl 4-(4-(3-(cyclopropylmethyl)ureido)phenoxy)piperidine-1-carboxylate (2.57 mmol, 1 g) in dichloromethane (10 mL) was added trifluoroacetic acid (2 mL). The resulting solution was stirred at room temperature for 30 minutes then was concentrated under vacuum. The residue was dissolved in dichloromethane and purified by SCX chromatography to give the title compound (350 mg). MS (ESI) m/z 290.1 [M+H]+

reactant | tert-butyl 4-(4-(3-(cyclopropylmethyl)ureido)phenoxy)piperidine-1-carboxylate | 2.57 mmol, 1 g | C1(CC1)CNC(NC1=CC=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=C1)=O | C21H31N3O4
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-(Cyclopropylmethyl)-3-(4-(piperidin-4-yloxy)phenyl)urea | 350 mg | C1(CC1)CNC(=O)NC1=CC=C(C=C1)OC1CCNCC1 | C16H23N3O2
